US08609674B2
((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]heptan-2-yl)methyl 4-methylbenzenesulfonate
A solution of ((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]heptan-2-yl)methanol (7.0 mL, 44.2 mmol) and triethylamine (13.5 mL, 97.0 mmol) in dichloromethane (60 mL) was cooled to 0° C. A solution of 4-methylbenzene-1-sulfonyl chloride (10.9 g, 57.4 mmol) in dichloromethane (20 mL) was added drop wise at 0° C. The reaction was stirred at room temperature for 16 hours. The mixture was washed with saturated aqueous NaHCO3 and the aqueous layer was extracted twice with dichloromethane. The organic extracts were dried over sodium sulfate, filtered, and concentrated to give the title compound.

reactant | ((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]heptan-2-yl)methanol | 44.2 mmol, 7.0 mL | CC1([C@H]2CC[C@@H]([C@@H]1C2)CO)C | C10H18O
reactant | triethylamine | 97.0 mmol, 13.5 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methylbenzene-1-sulfonyl chloride | 57.4 mmol, 10.9 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | ((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]heptan-2-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1[C@H]2C([C@@H](CC1)C2)(C)C | C17H24O3S
